US08536165B2
C. tert-Butyl 2-amino-5-methylbenzoate
To a suspension of tert-butyl 5-methyl-2-(2,2,2-trifluoroacetamido)benzoate (19.78 mmol, 6.0 g) in ethanol (19 ml) was cooled with a water-iced bath. NaBH4 (39.57 mmol, 1.50 g) was added in portions and the mixture was stirred at room temperature for 3 hours. Water (40 ml) was added slowly and evaporated. The solid was dissolved with CHCl3 and washed with water and brine. The organic phase was evaporated affording 3.73 g (yield 91%) of the expected product.

reactant | tert-butyl 5-methyl-2-(2,2,2-trifluoroacetamido)benzoate | 19.78 mmol, 6.0 g | CC=1C=CC(=C(C(=O)OC(C)(C)C)C1)NC(C(F)(F)F)=O | C14H16F3NO3
reactant | NaBH4 | 39.57 mmol, 1.50 g | [BH4-].[Na+]
reactant | Water | 40 ml | O | H2O
solvent | ethanol | 19 ml | C(C)O | C2H6O
product | tert-Butyl 2-amino-5-methylbenzoate | 3.73 g, yield 91% | NC1=C(C(=O)OC(C)(C)C)C=C(C=C1)C | C12H17NO2
